US07964625B2
100 mmol 2,3-dichloroaniline and 50 mmol diethyl malonate were put together and stirred at overnight 170° C. The formed ethanol was distilled off directly (100 mmol≡6.6 mL) on a stream of nitrogen. N1,N3-di(2,3-dichloro-phenyl)-malonamide was formed as one solid block. The reaction was cooled and EtOAc was added. The product had to be crushed with a mortar, because it resembled very hard brick. The crushed material was stirred in EtOAc and filtered. EtOAc added was added twice and the mixture was stirred and filtered each time. 14.7 g N1,N3-di(2,3-dichloro-phenyl)-malonamide was obtained (yield 75.0%, purity 98.4%)

reactant | 2,3-dichloroaniline | 100 mmol | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | diethyl malonate | 50 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | N1,N3-di(2,3-dichloro-phenyl)-malonamide | ClC1=C(C=CC=C1Cl)NC(CC(=O)NC1=C(C(=CC=C1)Cl)Cl)=O | C15H10Cl4N2O2
